US08685969B2
4. 6-Methyl-5-(pyrimidin-5-yloxy)-1H-indole
A red, heterogeneous solution of (E)-5-(2-methyl-4-nitro-5-(2-(pyrrolidin-1-yl)vinyl)phenoxy)pyrimidine (0.963 g, 2.95 mmol) and 10% Pd/C (0.314 g, 0.295 mmol) in methanol (49.2 mL) was hydrogenated overnight. The reaction was flushed with nitrogen, filtered through a pad of CELITE®, and rinsed with MeOH. The filtrate was concentrated in vacuo to give a residue which was purified by flash chromatography using an ISCO 40 g column eluting with 0-5% MeOH/CH2Cl2. Appropriate fractions were collected and concentrated in vacuo to the desired product (0.3082 g, 1.37 mmol, 46.4%) as a light yellow solid.

reactant | (E)-5-(2-methyl-4-nitro-5-(2-(pyrrolidin-1-yl)vinyl)phenoxy)pyrimidine | 2.95 mmol, 0.963 g | CC1=C(OC=2C=NC=NC2)C=C(C(=C1)[N+](=O)[O-])\C=C\N1CCCC1 | C17H18N4O3
solvent | methanol | 49.2 mL | CO | CH4O
catalyst | Pd/C | 0.295 mmol, 0.314 g | [Pd] | Pd
product | 6-Methyl-5-(pyrimidin-5-yloxy)-1H-indole | 1.37 mmol, 0.3082 g, 46.4% | CC1=C(C=C2C=CNC2=C1)OC=1C=NC=NC1 | C13H11N3O
